US06410732B2
A solution of 1.00 g of acridan-9-carboxylic acid methyl ester (4.18 mmol), 0.44 mL of bromobenzene (4.18 mmol), 0.60 g of sodium t-butoxide (6.27 mmol), 23 mg of Pd(OAc)2 (0.105 mmol), and 17 mg of tri-t-butylphosphine (0.084 mmol) in 15 mL of toluene was stirred under inert atmosphere at room temperature. After 2.5 h, 5 g of silica gel in 15 mL of CH2Cl2 was added to the reaction mixture. The slurry was filtered, washed with excess CH2Cl2 and the filtrate was concentrated to a thick solution. 20 mL of hexanes was added to this solution, causing a white precipitate to form. The precipitate was filtered, washed with hexanes, and dried to afford 0.96 g of N-phenylacridan-9-carboxylic acid methyl ester (72%).

reactant | acridan-9-carboxylic acid methyl ester | 4.18 mmol, 1.00 g | COC(=O)C1C2=CC=CC=C2NC=2C=CC=CC12 | C15H13NO2
reactant | bromobenzene | 4.18 mmol, 0.44 mL | BrC1=CC=CC=C1 | C6H5Br
reactant | sodium t-butoxide | 6.27 mmol, 0.60 g | CC(C)([O-])C.[Na+]
solvent | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
solvent | CH2Cl2 | 15 mL | C(Cl)Cl | CH2Cl2
catalyst | Pd(OAc)2 | 0.105 mmol, 23 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
catalyst | tri-t-butylphosphine | 0.084 mmol, 17 mg | C(C)(C)(C)P(C(C)(C)C)C(C)(C)C | C12H27P
product | N-phenylacridan-9-carboxylic acid methyl ester | 0.96 g, 72% | COC(=O)C1C2=CC=CC=C2N(C=2C=CC=CC12)C1=CC=CC=C1 | C21H17NO2
